US07714126B2
1-(5-Nitro-pyridin-2-yl)-azetidin-3-ol (400 mg, 2 mmol) was hydrogenated at 35 psi for 2¾ hrs with 10% Pd/C (40 mg) in EtOH (30 mL) and acetic acid (2 drops). The mixture was filtered through a celite plug, evaporated and then co-evaporated with toluene. The residue was dissolved in DMF (15 mL). One half of this solution (7.5 mL, ˜1 mmol) was removed. To this was added 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (257 mg, 1 mmol), Et3N (422 uL, 3 mmol) and BOP (464 mg. 1.05 mmol). The reaction was stirred for 1 hr at room temperature. Following work-up as above, the crude material was purified by flash chromatography to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-hydroxyazetidin-1-yl)-pyridin-3-yl]-amide as an off-white solid (41 mg). ES-MS calcd for C19H15F3N4O3 (m/e) 404.35, obsd 405.1 (M+H).

reactant | 1-(5-Nitro-pyridin-2-yl)-azetidin-3-ol | 2 mmol, 400 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CC(C1)O | C8H9N3O3
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 1 mmol, 257 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | Et3N | 3 mmol, 422 uL | CCN(CC)CC | C6H15N
reactant | BOP | 1.05 mmol, 464 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-hydroxyazetidin-1-yl)-pyridin-3-yl]-amide | 41 mg | OC1CN(C1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C19H15F3N4O3
